US04056539
Dry 1-hydroxy-2-naphthoic acid (50 gms., 0.266 mole) was suspended in 350 ml. dry benzene in a flame-dried 1 liter 1-neck round bottom flask under an air condenser and drying tube. Thionyl chloride (31.7 gms., 0.266 mole) was added in one portion followed by 1.5 ml. dry N,N-dimethylformamide. The reaction mixture was stirred magnetically 2-3 days at room temperature. Insoluble material (6.5 gms.) was removed by filtration, and the yellow-tan filtrate was evaporated to dryness to give pale yellow 1-hydroxy-2-naphthoyl chloride, m.p. 87°-88° C. Chilled anhydrous methanol (100 ml.) was added quickly to the solid chloride in an exothermic reaction. The partial solution was heated about 5 minutes on the steam bath under a drying tube then allowed to cool. The suspension was chilled and the solid was collected to give 43 gms. (92% by weight) of 1-hydroxy-2-methyl naphthoate.

reactant | 1-hydroxy-2-naphthoic acid | 0.266 mole, 50 gms | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | Thionyl chloride | 0.266 mole, 31.7 gms | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-hydroxy-2-naphthoyl chloride | OC1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO2
